US08471005B2
Into a 8-dram vial, 1-(3-Methoxy-4-nitro-phenyl)-4-oxo-cyclohexanecarbonitrile (0.450 g, 1.64 mmol), Morpholine (0.429 g, 4.92 mmol), Tetrahydrofuran (8.00 mL, 98.6 mmol) was added and stirred at 50° C. for 1 hour. Sodium triacetoxyborohydride (0.695 g, 3.28 mmol) was added and continued to heat at 50° C. overnight. The reaction was cooled to room temperature. The reaction was partitioned with saturated NaHCO3 and EtOAc. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant. The collected fractions afforded trans-1-(3-methoxy-4-nitrophenyl)-4-(morpholin-4-yl)cyclohexanecarbonitrile (0.38 g, 67%) and 4-Hydroxy-1-(3-methoxy-4-nitro-phenyl)-cyclohexanecarbonitrile (0.05 g, 10%).

reactant | 1-(3-Methoxy-4-nitro-phenyl)-4-oxo-cyclohexanecarbonitrile | 1.64 mmol, 0.450 g | COC=1C=C(C=CC1[N+](=O)[O-])C1(CCC(CC1)=O)C#N | C14H14N2O4
reactant | Morpholine | 4.92 mmol, 0.429 g | N1CCOCC1 | C4H9NO
reactant | Tetrahydrofuran | 98.6 mmol, 8.00 mL | O1CCCC1 | C4H8O
reactant | Sodium triacetoxyborohydride | 3.28 mmol, 0.695 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-Hydroxy-1-(3-methoxy-4-nitro-phenyl)-cyclohexanecarbonitrile | 0.05 g, 10% | OC1CCC(CC1)(C#N)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C14H16N2O4
